* C:\Users\mdotg\Documents\GitHub\Lab\Lab 3\LTspice\ACAnalysis.asc
VIN IN 0 SINE(0, 8.41, 150) AC 1
V2 Vp 0 12
V3 Vn 0 -12
V1 Vref 0 0
XSTAGE1 IN OUT1 Vp Vn Vref stagea_lowpassfirstordergain_ada4096
XSTAGE2 OUT1 OUT Vp Vn Vref stageb_lowpasssallenkey_ada4096

* block symbol definitions
.subckt stagea_lowpassfirstordergain_ada4096 IN OUT V+ V- REF
R1 N002 IN 10E3
C1 N002 REF 22E-9
R4 N001 OUT 12E3
R3 REF N001 27E3
XU2 N002 N001 V+ V- OUT tl082
.lib TL082.lib
.ends stagea_lowpassfirstordergain_ada4096

.subckt stageb_lowpasssallenkey_ada4096 IN OUT V+ V- REF
R2 N002 N001 39E3
R1 N001 IN 39E3
C2 N002 REF 680E-12
C1 OUT N001 12E-9
XU2 N002 OUT V+ V- OUT tl082
.lib tl082.lib
.ends stageb_lowpasssallenkey_ada4096

.ac dec 100 150 5000
.save V(*?*) I(*?*)
* If you're having trouble with simulation try the following:\n \n- Ensure that LTspice circuit folder is unzipped.  LTspice won't \nbe able to locate subcircuits if the folders are still zipped.\n \n- Update LTspice - devices that have been recently added to LTspice\nwon't be available unless you update by clicking Tools -> Sync Release.
.backanno
.end
